US06284905B1
The crude mix of isomeric alcohols was dissolved in toluene (150 ml) to which p-toluene sulfonic acid (0.5 g) was added. The solution was refluxed in a flask equipped with a Dean-Stark trap for 1.5 h then cooled. Solid sodium bicarbonate was added and the mixture was stored overnight in a refrigerator. The next morning water (100 ml) was added and the organic layer was separated, dried over Na2SO4, and stripped under reduced pressure. The product, 2-isopropyl-4-phenylindene (10.4 g) was obtained as a brown oil. Analysis by GC indicated a purity of >96 area percent. This material was stored cold under an inert atmosphere until ready for further conversion.

reactant | p-toluene sulfonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | water | 100 ml | O | H2O
reactant | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 2-isopropyl-4-phenylindene | 10.4 g | C(C)(C)C=1CC2=CC=CC(=C2C1)C1=CC=CC=C1 | C18H18
